US04277621
The procedure described in Example (1b) is repeated, except that 95.3 g(0.323 mol) of 3,3-diethyl-12-phenyl-1-aza-1,5,9-cyclododecatriene, 20 g of37% hydrochloric acid, 22.4 g (0.322 mol) of hydroxylamine hydrochloride and 250 ml of water are used. Working up yields 103.1 g (0.314 mol) of 2,2-diethyl-11-phenyl-11-amino-undeca-4,8-dienal oxime; yield 97.5% of theory.

reactant | 3,3-diethyl-12-phenyl-1-aza-1,5,9-cyclododecatriene | 0.323 mol, 95.3 g | C(C)C1(C=NC(CC=CCCC=CC1)C1=CC=CC=C1)CC | C21H29N
reactant | hydrochloric acid | Cl | ClH
reactant | hydroxylamine hydrochloride | 0.322 mol, 22.4 g | Cl.NO
solvent | water | 250 ml | O | H2O
product | 2,2-diethyl-11-phenyl-11-amino-undeca-4,8-dienal oxime | 0.314 mol, 103.1 g, yield 97.5% | C(C)C(C=NO)(CC=CCCC=CCC(N)C1=CC=CC=C1)CC | C21H32N2O
